US06350755B1
Step G: Preparation of 3-(3-Methoxy-benzenesulfonylamino)-propionic acid
To a solution of 3-(3-methoxy-benzenesulfonylamino)-propionic acid ethyl ester (5.62 g), prepared as described in Step F, in 200 mL of EtOH at room temperature was added 1N NaOH (20.54 mL). After stirring overnight, 1 N HCl solution was added until pH <5. The reaction was concentrated in vacuo to remove the EtOH, the residue partitioned between EtOAc and water, washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo to provide the title compound.

reactant | 3-(3-methoxy-benzenesulfonylamino)-propionic acid ethyl ester | 5.62 g | C(C)OC(CCNS(=O)(=O)C1=CC(=CC=C1)OC)=O | C12H17NO5S
reactant | NaOH | 1N, 20.54 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | EtOH | 200 mL | CCO | C2H6O
product | 3-(3-Methoxy-benzenesulfonylamino)-propionic acid | COC=1C=C(C=CC1)S(=O)(=O)NCCC(=O)O | C10H13NO5S
